US05428043
A stirred solution of ethyl indole-2-carboxylate (5.67 g, 30 mmol) in 400 ml of toluene under N was treated with sodium hydride (1.44 g, 36 mmol). Ethyl acrylate (3.6 ml, 33 mol) was added and the mixture was heated at reflux. Additional portions of ethyl acrylate (6 mmol) and sodium hydride (16 mmol) were added after 3 hr. After a total time of 6 hr, t.l.c. indicated that all starting material are consumed. The mixture was quenched with ethanol and treated with water, dilute HCl, and methylene chloride. The organic phase was washed with brine, dried over sodium sulfate, filtered, and concentrated to give 2,3-dihydro-1-oxo-2-ethoxycarbonyl-1H-pyrrolo[1,2-a]indole, which was used directly in the next step.

reactant | ethyl indole-2-carboxylate | 30 mmol, 5.67 g | N1C(=CC2=CC=CC=C12)C(=O)OCC | C11H11NO2
reactant | sodium hydride | 36 mmol, 1.44 g | [H-].[Na+]
reactant | Ethyl acrylate | 33 mol, 3.6 ml | C(C=C)(=O)OCC | C5H8O2
reactant | ethyl acrylate | 6 mmol | C(C=C)(=O)OCC | C5H8O2
reactant | sodium hydride | 16 mmol | [H-].[Na+]
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3-dihydro-1-oxo-2-ethoxycarbonyl-1H-pyrrolo[1,2-a]indole | O=C1C(CN2C1=CC=1C=CC=CC21)C(=O)OCC | C14H13NO3
